US08471005B2
Into an 8-dram vial, 3-Nitro-1H-pyrazole (0.50 g, 4.4 mmol), 4-(2-chloroethyl)-morpholine hydrochloride (1.23 g, 6.63 mmol), Potassium carbonate (1.83 g, 13.3 mmol), and Acetonitrile (30 mL, 600 mmol) were added. The reaction mixture was heated. The reaction was poured over ice. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (1 to 3% methanol). The collected fractions afforded 4-[2-(3-Nitro-pyrazol-1-yl)-ethyl]-morpholine a yellow solid (0.75 g, 75%).

reactant | 3-Nitro-1H-pyrazole | 4.4 mmol, 0.50 g | [N+](=O)([O-])C1=NNC=C1 | C3H3N3O2
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | 6.63 mmol, 1.23 g | Cl.ClCCN1CCOCC1
reactant | Potassium carbonate | 13.3 mmol, 1.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | Acetonitrile | 600 mmol, 30 mL | C(C)#N | C2H3N
product | 4-[2-(3-Nitro-pyrazol-1-yl)-ethyl]-morpholine | [N+](=O)([O-])C1=NN(C=C1)CCN1CCOCC1 | C9H14N4O3
